US07902252B2
2.75. Synthesis of 4-(4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (39)
The title compound was synthesized from methyl 4-(4-fluorobenzyl)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate in two steps. First, the starting material's methyl ester was hydrolyzed according to General Procedure 7. In this case, 0.070 g (0.274 mmol) of starting ester and potassium hydroxide (10 M, 0.16 mL, 1.6 mmol) were used. The deprotected methyl ester (4-(4-fluorobenzyl)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid) (0.035 g, 0.13 mmol) was then dissolved in THF (3 mL) and MeOH (3 mL), and LiOH (0.055 g, 1.3 mmol) in H2O (3 mL) was added and the reaction stirred at 70° C. for 6 h. The reaction was diluted in 25 mL H2O and acidified to pH 2-3 with 1 N HCl, then extracted with 2×50 mL EtOAc. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound. 16 mg. 19F NMR δ ppm −102.42 (m, J=5.4) LCMS-MS (ESI−) 258.0 (M−H); HPLC (UV=98.52%), (ELSD=100%).

reactant | methyl 4-(4-fluorobenzyl)-1-tosyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC1=CC=C(CC2CCC=3N(C(=CC32)C(=O)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=C1 | C23H22FNO4S
reactant | potassium hydroxide | 1.6 mmol, 10 M, 0.16 mL | [OH-].[K+]
reactant | LiOH | 1.3 mmol, 0.055 g | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 25 mL | O | H2O
product | 4-(4-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC1=CC=C(CC2CCC=3NC(=CC32)C(=O)O)C=C1 | C15H14FNO2
